US08748624B2
STEP A: 2-methoxy-2′-methyl-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-amine
The title compound was prepared as described in Example 159 substituting 4-bromo-3-methoxyaniline and (2-methyl-4-(trifluoromethyl)phenyl)boronic acid for 4-bromo-3-chloroaniline and (4-(trifluoromethyl)phenyl)boronic acid, respectively.

reactant | 4-bromo-3-methoxyaniline | BrC1=C(C=C(N)C=C1)OC | C7H8BrNO
reactant | (2-methyl-4-(trifluoromethyl)phenyl)boronic acid | CC1=C(C=CC(=C1)C(F)(F)F)B(O)O | C8H8BF3O2
reactant | 4-bromo-3-chloroaniline | BrC1=C(C=C(N)C=C1)Cl | C6H5BrClN
reactant | (4-(trifluoromethyl)phenyl)boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 2-methoxy-2′-methyl-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-amine | COC1=C(C=CC(=C1)N)C1=C(C=C(C=C1)C(F)(F)F)C | C15H14F3NO
